US05587379
Under a nitrogen atmosphere, a solution of 15.0 grams (0.055 mole) of 2-trifluoromethylphenyl iodide, 4.8 grams (0.061 mole) of 4-pentynenitrile, 30.6 mL (0.22 mole) of triethylamine, 0.4 gram (0.0006 mole) of bis(triphenylphosphine)palladium(II) chloride, and 0.1 gram (0.0006 mole) of copper(II) iodide in 50 mL of acetonitrile was stirred at ambient temperature for 5 hours. After this time, gas chromatographic analysis (GC) of the reaction mixture indicated that the reaction was about 60% complete. The reaction mixture was warmed to 40°-45° C., where it was stirred for 16 hours. After this time the reaction mixture was poured into 300 mL of water, and the mixture was extracted with two 100 mL portions of diethyl ether. The combined extracts were washed with aqueous dilute hydrochloric acid and then were dried with magnesium sulfate. The mixture was filtered and concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel. Elution was accomplished using 1:1-methylene chloride and petroleum ether. The product-containing fractions were combined and concentrated under reduced pressure, yielding 11.4 grams of 5-(2-trifluoromethylphenyl)-4-pentynenitrile. The NMR spectrum was consistent with the proposed structure.

reactant | 2-trifluoromethylphenyl iodide | 0.055 mole, 15.0 grams | FC(C1=C(C=CC=C1)I)(F)F | C7H4F3I
reactant | 4-pentynenitrile | 0.061 mole, 4.8 grams | C(CCC#C)#N | C5H5N
reactant | triethylamine | 0.22 mole, 30.6 mL | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.0006 mole, 0.4 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(II) iodide | 0.0006 mole, 0.1 gram | [Cu](I)I
product | 5-(2-trifluoromethylphenyl)-4-pentynenitrile | 11.4 grams | FC(C1=C(C=CC=C1)C#CCCC#N)(F)F | C12H8F3N
